US04961868
Preparation of Tri(4-methyl-2-pentyl) Borate
Approximately 306 grams of 4-methyl-2-pentanol, 100 grams of toluene, and 62 grams of boric acid were charged to a 2-liter glass reactor having an inert nitrogen atmosphere and equipped with heater, agitator, and Dean-Stark tube with condenser. The reactants were heated up to about 155° C. for a period of about 5 hours with agitation until water evolution during azeotropic distillation ceased. Approximately 52 grams of water was collected. The product was vacuum topped at about 155° C. to remove volatile solvent and filtered hot through diatomaceous earth to form a clear, water-white liquid.

reactant | 4-methyl-2-pentanol | 306 grams | CC(CC(C)O)C | C6H14O
reactant | toluene | 100 grams | C1(=CC=CC=C1)C | C7H8
reactant | boric acid | 62 grams | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | Tri(4-methyl-2-pentyl) Borate | B(OC(C)CC(C)C)(OC(C)CC(C)C)OC(C)CC(C)C | C18H39BO3
